US07323455B2
7-(3-Chloro-5-fluorophenyl)-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(H)-one
Prepared from 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 3-bromo-5-chloro-1-fluorobenzene generally according to the coupling procedure described in examples 82 and 1. 1H NMR (DMSO-d6): δ 10.01 (s, 1H), 7.61-7.65 (m, 4H), 7.36-7.39 (m, 1H), 7.18 (d, J=8.54 Hz, 1H), 4.26 (s, 2H), 1.62 (s, 6H); MS (ESI) m/z 320/322 ([M+H]+); MS (ESI) m/z 318/320 ([M−H]−). Anal. calcd for C17H15ClFNO2: C: 63.86; H: 4.73; N: 4.38 Found: C: 62.53; H: 4.55; N: 3.50.

reactant | 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C)C)C1 | C11H12BrNO2
reactant | 3-bromo-5-chloro-1-fluorobenzene | BrC=1C=C(C=C(C1)Cl)F | C6H3BrClF
product | 7-(3-Chloro-5-fluorophenyl)-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(H)-one | CC1(C2=C(C=CC(=C2)C3=CC(=CC(=C3)Cl)F)NC(=O)CO1)C | C17H15ClFNO2
